US08138175B2
B) 3-[(3,4-Dichloro-phenyl)-methoxycarbonylmethyl-amino]-propionic acid tert-butyl ester
A neat solution of 8.82 g (30.39 mmol) of 3-(3,4-dichloro-phenylamino)-propionic acid tert-butyl ester, 13.97 ml (151.97 mmol) of methyl bromoacetate and 17.64 ml (151.97 mmol) of 2,6-lutidine was stirred 14 h at 60° C., diluted with 20 ml of CH3CN and heated at 115° C. for 6 h. The reaction was then partitioned between aq. 10% KHSO4 solution and EtOAc (3×). The organic phases were washed with aq. 10% NaCl solution, dried over Na2SO4 evaporated and purified by flash silica gel column (n-heptane:EtOAc 95:5 to 9:1) to yield 7.86 g (71%) of the title compound as an yellow oil. MS: 362.0 (MH+, 2Cl).

reactant | 3-(3,4-dichloro-phenylamino)-propionic acid tert-butyl ester | 30.39 mmol, 8.82 g | C(C)(C)(C)OC(CCNC1=CC(=C(C=C1)Cl)Cl)=O | C13H17Cl2NO2
reactant | methyl bromoacetate | 151.97 mmol, 13.97 ml | BrCC(=O)OC | C3H5BrO2
reactant | 2,6-lutidine | 151.97 mmol, 17.64 ml | N1=C(C=CC=C1C)C | C7H9N
solvent | CH3CN | 20 ml | CC#N | C2H3N
product | 3-[(3,4-Dichloro-phenyl)-methoxycarbonylmethyl-amino]-propionic acid tert-butyl ester | 7.86 g, 71% | C(C)(C)(C)OC(CCN(CC(=O)OC)C1=CC(=C(C=C1)Cl)Cl)=O | C16H21Cl2NO4
